US09126981B2
Synthesis of 2-(3-ethylureidooxy)acetic Acid (Compound VI-12)
According to the procedure described in the synthesis method of Compound VI-9, tert-butyl 2-(3-ethylureidooxy)acetate (Compound V-8) (33 mg, 0.15 mmol) was reacted with 4N HCl/dioxane (2 ml) to obtain the title compound (24 mg, 100%).

reactant | tert-butyl 2-(3-ethylureidooxy)acetate | 0.15 mmol, 33 mg | C(C)NC(NOCC(=O)OC(C)(C)C)=O | C9H18N2O4
reactant | HCl dioxane | 4N, 2 ml | Cl.O1CCOCC1
product | 2-(3-ethylureidooxy)acetic Acid | 24 mg, 100% | C(C)NC(NOCC(=O)O)=O | C5H10N2O4
